US08937092B2
To a stirred solution of 2-methyl-4-nitrobenzonitrile (407 mg, 2.510 mmol) in tetrahydrofuran was added 2M BH3.SMe2 in tetrahydrofuran (2.1 mL). The reaction mixture was stirred for 15 h at 70° C. The mixture was cooled to room temperature, then quenched by water. The mixture dissolved in ethyl acetate and washed with water and brine. The organic layer was dried over magnesium sulfate and filtered. The filtrate removed in vacuo. The crude was purified by column chromatography to give (2-methyl-4-nitrophenyl)methanamine (178 mg, 43%).

reactant | 2-methyl-4-nitrobenzonitrile | 2.510 mmol, 407 mg | CC1=C(C#N)C=CC(=C1)[N+](=O)[O-] | C8H6N2O2
reactant | SMe2 | S(C)C | C2H6S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.1 mL | O1CCCC1 | C4H8O
product | (2-methyl-4-nitrophenyl)methanamine | 178 mg, 43% | CC1=C(C=CC(=C1)[N+](=O)[O-])CN | C8H10N2O2
